US04244961
A mixture of 16.5 g 8-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one, 6.6 g, 50% suspension of sodium hydride in mineral oil, 15 g ethyl iodide and 70 ml N,N-dimethylformamide is heated at 90° for one hour. The mixture is poured into 150 ml water and the resulting mixture acidified with 10 N hydrochloric acid. The mixture is extracted with two 100 ml portions of hexane. The aqueous layer is basified with sodium hydroxide and extracted with three 75 ml portions of dichloromethane. Removal of solvent in vacuum affords a residue which when crystallized from heptane gives 3-ethyl-8-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 105°-106°.

reactant | 8-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 16.5 g | C(C1=CC=CC=C1)N1CCC2(CNC(O2)=O)CC1 | C14H18N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | 15 g | C(C)I | C2H5I
reactant | hydrochloric acid | 10 N | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 3-ethyl-8-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one | C(C)N1C(OC2(C1)CCN(CC2)CC2=CC=CC=C2)=O | C16H22N2O2
